US05665718
1.32, g (0.0035 mol) of 8-fluoro-5-methyl-3-(5-pyrrolidin-1-ylmethyl-1,2,4-oxadiazol-3-yl)-5,6-dihydro-4H-imidazo [1,5-a][1,4]benzodiazepin-6-one were dissolved in 50 ml of hot ethanol. 0.8 ml (0.0038 mol) of 4.78N ethanolic hydrochloric acid was added at room temperature. The solution was concentrated to a volume of ~20 ml, whereby crystallization began. 80 ml of ether were added, the mixture was filtered and there were obtained 1.38 g (96%) of 8-fluoro-5-methyl-3-(5-pyrrolidin-1-ylmethyl-1,2,4-oxadiazol-3-yl)-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodia-zepin-6-one hydrochloride (1:1) as white crystals; m.p. 243°-245° (dec.).

reactant | 8-fluoro-5-methyl-3-(5-pyrrolidin-1-ylmethyl-1,2,4-oxadiazol-3-yl)-5,6-dihydro-4H-imidazo [1,5-a][1,4]benzodiazepin-6-one | 0.0035 mol | FC=1C=CC2=C(C(N(CC=3N2C=NC3C3=NOC(=N3)CN3CCCC3)C)=O)C1 | C19H19FN6O2
reactant | hydrochloric acid | 0.0038 mol, 4.78N, 0.8 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 8-fluoro-5-methyl-3-(5-pyrrolidin-1-ylmethyl-1,2,4-oxadiazol-3-yl)-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodia-zepin-6-one hydrochloride | 1.38 g, 96% | Cl.FC=1C=CC2=C(C(N(CC=3N2C=NC3C3=NOC(=N3)CN3CCCC3)C)=O)C1 | InChI=1S/C19H19FN6O2.ClH/c1-24-9-15-17(18-22-16(28-23-18)10-25-6-2-3-7-25)21-11-26(15)14-5-4-12(20)8-13(14)19(24)27;/h4-5,8,11H,2-3,6-7,9-10H2,1H3;1H
